US07737152B2
2-Chloro-6-(3-fluorophenyl-oxy)-pyrazine, CJS 454(A)
Using Method DD with 2,6-dichloropyrazine (250 mg, 1.69 mmol) and 3-fluorophenol (166 μL, 1.86 mmol, d=1.25 g/mL), and purification by column chromatography (AcOEt:cyclohexane, 1:1), the title compound was obtained (347 mg). Yield: 92%. 1H NMR (250 MHz, DMSO-d6) δ 7.13-7.17 (m, 2H, Harom 4+6), 7.25 (d, 1H, Harom 2, JF=10.0 Hz), 7.52 (q, 1H, Harom 5, J=8.1 Hz), 8.54 (s, 1H, HPz 5), 8.56 (s, 1H, HPz 3). m/z: 224.0 [(M)+, calcd for C10H6ClFN2O 224.0].

reactant | 2,6-dichloropyrazine | 1.69 mmol, 250 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 3-fluorophenol | 1.86 mmol, 166 μL | FC=1C=C(C=CC1)O | C6H5FO
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-Chloro-6-(3-fluorophenyl-oxy)-pyrazine | Yield: 92% | ClC1=NC(=CN=C1)OC1=CC(=CC=C1)F | C10H6ClFN2O
